US08809314B1
Synthesis of tert-butyl 1-(pyridin-4-yl)hydrazinecarboxylate
A mixture of 4-bromo-pyridine hydrochloride salt (8.0 g), tert-butyl hydrazinecarboxylate (10.87 g), CuI (784 mg), L-4-hydroxyproline (1.08 g) and Cs2CO3 (33.50 g) in dry DMSO (41 mL) under N2 was heated at 80° C. with efficient stirring for 5-6 hrs. After cooled to rt, the reaction mixture was diluted with EtOAc (150 mL) and saturated NH4Cl (150 mL). The organic layer was separated and the aqueous was extracted with EtOAc (3×150 mL). The combined organic layers were washed with brine (50 mL), dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography (DCM to 10% MeOH/DCM gradient) to provide the title compound (3.4 g, 40%). ESI-MS (EI+, m/z): 210.0 [M+H]+. 1H NMR (300 MHz, DMSO) δ 8.38 (d, J=4.9 Hz, 2H), 7.64 (d, J=6.4 Hz, 2H), 5.12 (s, 2H), 3.34 (s, 1H), 1.51 (s, 9H).

reactant | 4-bromo-pyridine hydrochloride salt | 8.0 g | Cl.BrC1=CC=NC=C1
reactant | tert-butyl hydrazinecarboxylate | 10.87 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | L-4-hydroxyproline | 1.08 g | C1[C@H](CN[C@@H]1C(=O)O)O | C5H9NO3
reactant | Cs2CO3 | 33.50 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 41 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | NH4Cl | 150 mL | [NH4+].[Cl-]
catalyst | CuI | 784 mg | [Cu]I
product | tert-butyl 1-(pyridin-4-yl)hydrazinecarboxylate | 3.4 g, 40% | N1=CC=C(C=C1)N(N)C(=O)OC(C)(C)C | C10H15N3O2
